US05084463
Step 2) Preparation of 2-(Chloromethyl)benzofuran
Thionyl chloride (5.14 mL, 70.46 mmol) was added dropwise to a solution of benzofuran-2-methanol (3.58 g, 23.48 mmol) and pyridine (10 drops) in dichloromethane (60 mL). Stirring was continued at room temperature for 18 hours. The mixture was carefully diluted with water and extracted with methylene chloride. The organic extracts were washed with aqueous sodium bicarbonate, dried (MgSO4) and concentrated to afford crude product which was purified by flash column chromatography (10% ethyl acetate/hexanes) to afford 2.77 g (69%) of pure product as a yellow oil.

reactant | Thionyl chloride | 70.46 mmol, 5.14 mL | S(=O)(Cl)Cl | Cl2OS
reactant | benzofuran-2-methanol | 23.48 mmol, 3.58 g | O1C(=CC2=C1C=CC=C2)CO | C9H8O2
catalyst | pyridine | 10 drops | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-(Chloromethyl)benzofuran | 2.77 g, 69% | ClCC=1OC2=C(C1)C=CC=C2 | C9H7ClO
